US07501428B2
To a combined solution of acetonitrile (40 mL) and DMSO (40 mL) was added tetrakis(triphenylphosphine)palladium(0) (1.65 g, 1.43 mmol), anhydrous sodium formate (5.82 g, 85.6 mmol) followed by powder (6-bromo-4-ethoxy-quinazolin-2-yl)-methyl-amine (4 g, 14.3 mmol) and the resultant mixture was heated to 85° C., 50 psi under CO atmosphere. After being stirred for 48 hours, the cooled mixture was poured to water and extracted with DCM (3×200 mL). The combined organic phase was washed with brine, dried over Na2SO4, evaporated to give a brown solid which was purified by column to afford 4-ethoxy-2-methylamino-quinazoline-6-carbaldehyde (1 g, 4.3 mmol, 30%) as a pale solid. 1H NMR (DMSO-d6): δ 9.95 (s, 1H), 8.38 (s, 1H), 8.00-7.97 (d, 1H), 7.59-7.56 (m, 1H), 7.46-7.44 (d, 1H), 4.53-4.48 (q, 2H), 2.89-2.87 (d, 3H), 1.44-1.40 (t, 3H).

reactant | acetonitrile | 40 mL | C(C)#N | C2H3N
reactant | DMSO | 40 mL | CS(=O)C | C2H6OS
reactant | sodium formate | 85.6 mmol, 5.82 g | C(=O)[O-].[Na+]
reactant | (6-bromo-4-ethoxy-quinazolin-2-yl)-methyl-amine | 14.3 mmol, 4 g | BrC=1C=C2C(=NC(=NC2=CC1)NC)OCC | C11H12BrN3O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.43 mmol, 1.65 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | 4-ethoxy-2-methylamino-quinazoline-6-carbaldehyde | 4.3 mmol, 1 g, 30% | C(C)OC1=NC(=NC2=CC=C(C=C12)C=O)NC | C12H13N3O2
